US07381719B2
6-{4-[(3,3-Dimethyl-butylamino)-methyl]-2,6-difluoro-phenoxy}-nicotinamide
Using a method similar to Example 710, Step 4, using 6-(2,6-difluoro-4-formyl-phenoxy)-nicotinamide (278 mg, 1.00 mmol), 3,3-dimethylbutylamine (105 mg, 1.20 mmol), and NaBH4 (57 mg, 1.50 mmol) gave the title compound (292 mg) as a white solid. Mass spectrum (ion spray): m/z=364 (M+1); 1H NMR (DMSO-d6): 8.54 (s, 1H), 8.30 (d, 1H), 8.04 (s, 1H), 7.51 (s, 1H), 7.29 (d, 1H), 7.22 (d, 2H), 3.71 (s, 2H), 2.49 (t, 2H), 1.36 (m, 2H), 0.86 (s, 9H).

reactant | 6-(2,6-difluoro-4-formyl-phenoxy)-nicotinamide | 1.00 mmol, 278 mg | FC1=C(OC2=NC=C(C(=O)N)C=C2)C(=CC(=C1)C=O)F | C13H8F2N2O3
reactant | 3,3-dimethylbutylamine | 1.20 mmol, 105 mg | CC(CCN)(C)C | C6H15N
reactant | NaBH4 | 1.50 mmol, 57 mg | [BH4-].[Na+]
product | 6-{4-[(3,3-Dimethyl-butylamino)-methyl]-2,6-difluoro-phenoxy}-nicotinamide | 292 mg | CC(CCNCC1=CC(=C(OC2=NC=C(C(=O)N)C=C2)C(=C1)F)F)(C)C | C19H23F2N3O2
